US05413794
Thionyl chloride was dropped to ethanol and the mixture was stirred for 2 hours. Then, N-n-octanoylanthranilic acid was added to the mixture and reaction was allowed to proceed for 3 days at the room temperature. After the reaction, the solvent was removed and ethyl N-n-octanoylanthranilate was obtained from the remaining reactant after the purification by column chromatography with the yield of 89.2 %.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-n-octanoylanthranilic acid | C(CCCCCCC)(=O)NC=1C(C(=O)O)=CC=CC1 | C15H21NO3
reactant | ethanol | C(C)O | C2H6O
product | ethyl N-n-octanoylanthranilate | yield of 89.2 % | C(CCCCCCC)(=O)NC=1C(C(=O)OCC)=CC=CC1 | C17H25NO3
